US04013641
7-METHYL-7H-INDOLO[ 3,2-b][1,5]BENZOXAZEPINE-6(5H)-ONE
In the same way as described in example 4, 3-[o-aminophenoxy]-1-methyl-indole-2-carboxylic acid was cyclized with EEDQ. Analytical material was obtained by recrystallization from acetonitrile, mp. 247°-8°.

reactant | 3-[o-aminophenoxy]-1-methyl-indole-2-carboxylic acid | NC1=C(OC2=C(N(C3=CC=CC=C23)C)C(=O)O)C=CC=C1 | C16H14N2O3
reactant | EEDQ | CCOC1C=CC2=CC=CC=C2N1C(=O)OCC | C14H17NO3
solvent | acetonitrile | C(C)#N | C2H3N
product | 7-METHYL-7H-INDOLO[ 3,2-b][1,5]BENZOXAZEPINE-6(5H)-ONE | CN1C(C2=C(OC3=C1C=CC=C3)C3=CC=CC=C3N2)=O | C16H12N2O2
